US05580986
1. 5-Amino-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile
5.0 g (19.7 mmol) 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile was dissolved in 180 ml acetonitrile and 2.65 g (19.7 mmol) sulfuryl chloride added dropwise. The mixture was stirred for one hour at room temperature and concentrated.

reactant | 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | 19.7 mmol, 5.0 g | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)C#N | C9H8F2N6O
reactant | sulfuryl chloride | 19.7 mmol, 2.65 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | 5-Amino-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | NC1=C(C=NN1C1=NN(C(=C1Cl)OC(F)F)C)C#N | C9H7ClF2N6O
